US07087626B2
Quinolin-6-yl-acetonitrile
A solution of 6-methyl-quinoline (3.00 g, 20.6 mmol), N-bromosuccinimide (3.96 g, 22.0 mmol), and benzoyl peroxide (0.51 g, 2.10 mmol) in carbon tetrachloride (100 mL) is stirred at reflux for 2 h. The reaction is cooled to room temperature then washed with saturated aqueous sodium bisulfite (50 mL). The organic phase is passed through 30 g SiO2 (2×) eluting with dichloromethane then diethyl ether. N,N-Dimethylformamide (83 mL) is added to the combined organic fractions and solvent removed under reduced pressure leaving only the reaction mixture in N,N-dimethylformamide. To the reaction mixture in N,N-dimethylformamide is added sodium cyanide (1.22 g, 24.9 mmol) and potassium bicarbonate (2.51 g, 24.9 mmol). The reaction mixture is allowed to stir at 50° C. for 2 h. The cooled reaction mixture is poured into pH 7 buffer (75 mL) and extracted with ethyl acetate (2×100 mL). The organic layers are combined, washed with saturated aqueous sodium chloride (100 mL), dried over solid sodium chloride, and concentrated under reduced pressure to afford an oil that is purified by normal phase flash chromatography (120 g Biotage KP-Sil 40L: 10% ethyl acetate in hexanes for 5 min, 20% ethyl acetate in hexanes for 20 min, 40% ethyl acetate in hexanes for 20 min, 60% ethyl acetate in hexanes for 20 min, then 60-100% ethyl acetate in hexanes ramp over 20 min) to provids 645 mg (18%) of the title compound. MS ES+ m/e 169 (M+1).

reactant | 6-methyl-quinoline | 20.6 mmol, 3.00 g | CC=1C=C2C=CC=NC2=CC1 | C10H9N
reactant | N-bromosuccinimide | 22.0 mmol, 3.96 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 2.10 mmol, 0.51 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | sodium cyanide | 24.9 mmol, 1.22 g | [C-]#N.[Na+]
reactant | potassium bicarbonate | 24.9 mmol, 2.51 g | C([O-])(O)=O.[K+]
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Quinolin-6-yl-acetonitrile | 645 mg, 18% | N1=CC=CC2=CC(=CC=C12)CC#N | C11H8N2
